US06359138B1
(RS)-1-(6-Hydroxy-1,2,3,4-tetrahydro-naphthalen-2-ylmethyl)-4-(4-methyl-benzyl)-piperidin-4-ol Hydrochloride
To (RS)-1-(6-hydroxy-1,2,3 ,4-tetrahydro-naphthalen-2-ylmethyl)-4-(4-methyl-benzyl)-piperidin-4-ol (500 mg, 1.36 mmol) in EtOH (4 ml) at 4° C., was added ethanolic HCl (1.1 eq.). Evaporation of the EtOH afforded the title compound as a white foam (530 mg, 1.32 mmol, 97%), MS m/e=366.2 (M+H+).

reactant | (RS)-1-(6-hydroxy-1,2,3 ,4-tetrahydro-naphthalen-2-ylmethyl)-4-(4-methyl-benzyl)-piperidin-4-ol | 1.36 mmol, 500 mg | OC=1C=C2CCC(CC2=CC1)CN1CCC(CC1)(O)CC1=CC=C(C=C1)C | C24H31NO2
reactant | HCl | 1.1 eq. | Cl | ClH
solvent | EtOH | 4 ml | CCO | C2H6O
product | (RS)-1-(6-Hydroxy-1,2,3,4-tetrahydro-naphthalen-2-ylmethyl)-4-(4-methyl-benzyl)-piperidin-4-ol Hydrochloride | 1.32 mmol, 530 mg, 97% | Cl.OC=1C=C2CCC(CC2=CC1)CN1CCC(CC1)(O)CC1=CC=C(C=C1)C | InChI=1S/C24H31NO2.ClH/c1-18-2-4-19(5-3-18)16-24(27)10-12-25(13-11-24)17-20-6-7-22-15-23(26)9-8-21(22)14-20;/h2-5,8-9,15,20,26-27H,6-7,10-14,16-17H2,1H3;1H
